US04058557
To a solution of 6.0 g. (0.017 moles) of 1-(2,6-dimethylphenyl)-3-benzyloxyamidinourea in 160 ml. of absolute ethanol there is added 1.0 g. of 5% Pd/carbon and then 1 ml. of saturated ethanolic hydrogen chloride. The mixture is hydrogenated at room temperature and atmospheric pressure until one equivalent of hydrogen is taken up (1 hour). The suspension is filtered through a bed of celite and the filtrate evaporated to an off-white solid. The solid is recrystallized from 150 ml. of 7:1 acetonitri e:methanol to give 1-(2,6-dimethylphenyl)-3-hydroxyamidinourea hydrochloride, m.p. 191°-2° C.

reactant | 1-(2,6-dimethylphenyl)-3-benzyloxyamidinourea | 0.017 moles | CC1=C(C(=CC=C1)C)NC(=O)NC(NOCC1=CC=CC=C1)=N | C17H20N4O2
reactant | hydrogen chloride | Cl | ClH
reactant | hydrogen | one equivalent | [H][H] | H2
catalyst | Pd carbon | [Pd].[C]
solvent | ethanol | C(C)O | C2H6O
product | 1-(2,6-dimethylphenyl)-3-hydroxyamidinourea hydrochloride | Cl.CC1=C(C(=CC=C1)C)NC(=O)NC(NO)=N | InChI=1S/C10H14N4O2.ClH/c1-6-4-3-5-7(2)8(6)12-10(15)13-9(11)14-16;/h3-5,16H,1-2H3,(H4,11,12,13,14,15);1H
